US05021412
Synthesis of 2-(2,2,2-trifluoroethylimino)-3-(4-t-butylbenzyl)-5-phenyl-tetrahydro-1,3,5-thiadiazin-4-one (compound No. 6)
A solution of 0.65 g of trichloromethyl chloroformate in 10 ml of benzene was added dropwise to a solution of 0.69 g of 1,3,5-triphenyl-hexahydro-s-triazine in 20 ml of tetrahydrofuran with stirring at room temperature in a nitrogen stream. The solution was stirred at room temperature for 1.5 hours. Then, 2.00 g of 1-(4-t-butylbenzyl)-3-(2,2,2-trifluoroethyl)thiourea was added at room temperature with stirring, and subsequently, 6 ml of a 10 % aqueous solution of sodium hydroxide was added. The mixture was stirred at room temperature for 12 hours. Water (30 ml) was added to the reaction mixture, and it was extracted with 150 ml of ethyl acetate. The ethyl acetate solution was washed with water, and dried. Ethyl acetate was evaporated under reduced pressure. The resulting oily product was purified by column chromatography silica gel; eluent: hexane/ethyl acetate (10/1)) to give 0.42 g of the captioned compound.

reactant | trichloromethyl chloroformate | 0.65 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 1,3,5-triphenyl-hexahydro-s-triazine | 0.69 g | C1(=CC=CC=C1)N1CN(CN(C1)C1=CC=CC=C1)C1=CC=CC=C1 | C21H21N3
reactant | 1-(4-t-butylbenzyl)-3-(2,2,2-trifluoroethyl)thiourea | 2.00 g | C(C)(C)(C)C1=CC=C(CNC(=S)NCC(F)(F)F)C=C1 | C14H19F3N2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | Water | 30 ml | O | H2O
product | 2-(2,2,2-trifluoroethylimino)-3-(4-t-butylbenzyl)-5-phenyl-tetrahydro-1,3,5-thiadiazin-4-one | 0.42 g | FC(CN=C1SCN(C(N1CC1=CC=C(C=C1)C(C)(C)C)=O)C1=CC=CC=C1)(F)F | C22H24F3N3OS
